simulator lang=spectre
V1 (vout 0) vsource type=pulse val0=0 val1=5 period=1u rise=10n fall=10n width=0.4u delay=0
R1 (vout 0) resistor R=50
tran tran stop=3u
save vout